US07705038B2
Preparation of (Z)-2-(4-Chloro-phenyl)-3-(1-methyl-1H-pyrrol-2-yl)acrylonitrile
A suspension of 4-chlorophenylacetonitrile (500 mg, 3.30 mmol) and 1-methyl-1H-pyrrole-2-carbaldehyde (370 mg, 3.39 mmol, 1.03 equiv.) in water (5 ml) was treated with 40% aqueous Triton B (1.4 ml, 3.3 mmol). Precipitate began forming almost immediately. After stirring for 2 h, the precipitate was filtered off, washed with water, and dried to afford a yellow solid (682 mg). This is Compound 6 in Table 8.

reactant | 4-chlorophenylacetonitrile | 3.30 mmol, 500 mg | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1-methyl-1H-pyrrole-2-carbaldehyde | 3.39 mmol, 370 mg, 1.03 equiv. | CN1C(=CC=C1)C=O | C6H7NO
solvent | water | 5 ml | O | H2O
product | (Z)-2-(4-Chloro-phenyl)-3-(1-methyl-1H-pyrrol-2-yl)acrylonitrile | 682 mg | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1N(C=CC1)C | C14H11ClN2
